US04723018
The 2-(p-methoxyphenyl)-5-octylpyridine was dissolved in 100 ml of acetic acid. 8 ml of 48% hydrobromic acid was added to the reaction solution and the solution was heated for 15 hours under reflux. 100 ml of water was added to the reaction solution and the organic layer was extracted with chloroform. After washing the extract three times with water, the chloroform was removed by distillation. The residue was recrystallized from a mixture of acetone and hexane to yield 8.3 g (0.029 mol) of 2-(p-hydroxyphenyl)-5-octylpyridine.

reactant | 2-(p-methoxyphenyl)-5-octylpyridine | COC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C20H27NO
reactant | hydrobromic acid | 8 ml | Br | BrH
reactant | water | 100 ml | O | H2O
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 2-(p-hydroxyphenyl)-5-octylpyridine | 0.029 mol, 8.3 g | OC1=CC=C(C=C1)C1=NC=C(C=C1)CCCCCCCC | C19H25NO
